US07754348B2
Synthesis of 2-(4-bromophenyl)benzo[d]oxazole
2-aminophenol 7.86 g (72 mmole), 4-bromobenzaldehyde 16 g (87 mmole), and 2.8 g of PTSA (14 mmole) was stirred in 150 ml of Toluene, the reaction mixture was then heated to reflux for 16 hours, after cooling, the reaction mixture was extracted with water, and then the organic layer was evaporated to dry, the residue was then recrystallized with acetone to get 12.85 g of product (yield=65.12%).

reactant | 2-aminophenol | 72 mmole, 7.86 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | 4-bromobenzaldehyde | 87 mmole, 16 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | PTSA | 14 mmole, 2.8 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | Toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-bromophenyl)benzo[d]oxazole | 12.85 g, yield=65.12% | BrC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C13H8BrNO
